Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Sulfa (Sulfonamides) / Lisinopril / Reglan
 
Attending: ___.
 
Chief Complaint:
chills, fatigue 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ female with recently diagnosed CLL 
in ___, and brief hospital stay last week for pneumonia, who 
presents now with complaints of chills, diarrhea and a 
leukocytosis. Today when she was at her ___ 
clinic her temperature was 99.5F , RR 18, and her O2 saturation 
was 98%. She complained of having 24 hours of intermittent 
chills and she continues to have a productive cough, although 
she explains she feels to fatigued at times to actually cough up 
anything. This morning she also had some new rhinitis and crampy 
abdominal pains with diarrhea x2. Over the weekend she describes 
having several other "loose" bowel movements. Of note, she also 
reports some occasional night sweats which have been occuring 
for months and a 55-lb unintentional weight loss over the past 
year, and 8-lbs. lost over the past month. She denies any 
dyspnea despite her cough.
.
On her last admission here at ___ from ___ to ___ she 
was treated for a CAP after presenting to her PCP's office on 
___ with 1 week of worsening chills, SOB, cough and sputum 
production. Was initially treated with azythromycin and 
nebulizers (prednisone + albuterol) but then discharged home on 
Cefipime and Azithromycin combination. Per discharge summary , 
medical team felt she had evidence of lower lung infiltrate that 
had resolved by time of admission. WBCs peaked at 15.6 on this 
last admission and they were checked at clinic today and are now 
markedly increased to 35 range with shift from 39% neutrophils 
to 53% neutrophils. Blood cultures were sent at clinic earlier 
this afternoon and she was admitted to ___ service for further 
workup and monitoring. On arrival to the ___ unit, Mrs. ___ 
vitals were: 99.8F, BP 128/64, HR 58, RR 20, O2 Sat 99% RA, and 
she was in no apparent distress but continued to complain of 
feeling cold with chills.
.
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolisms, bleeding at 
the time of surgery, myalgias, joint pains, hemoptysis, black 
stools or red stools, dysuria, skin rashes,open sores or 
jaundice. Admits to prior MI in ___. Denies chest pain, dyspnea 
on exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle 
edema, palpitations, syncope or presyncope. Additional positive 
ROS per HPI above. 
 
Past Medical History:
1. CLL (___) - Initial asymptomatic leukocytosis (18.6) in 
___ and ___ (22, 60% lymphocytes). Immunophenotyping of 
peripheral blood consistent with CLL (+ for CD5, CD19-dim, CD20 
and CD23 and - for CD10 and FCM7).  No significant 
lymphadenopathy on CT chest/abdomen. Currently no medical 
treatment indicated. 
2. Hypertension
3. Hyperlipidemia
4. Cataract surgery
5. CAD s/p CABG in ___
6. Sciatica s/p L4-L5 laminectomy
7. Chelecystitis s/p gallbladder removal (___)
8. Appendicitis s/p appendectomy (___)
9. "gynecologic mass" s/p uterine hysterectomy, ovaries still in 
tact (___)
10. Osteoarthritis s/p bilateral total knee replacement.
11. Community Acquired Pneumonia (___)
 
Social History:
___
Family History:
Notable for a mother who died of lung cancer. Father had died of 
an MI.
 
Physical Exam:
VS: 99.8F, BP 128/64, HR 58, RR 20, O2 Sat 99% RA
GENERAL: No acute distress. Oriented to person, place and time, 
affect appropriate. Pallid complexion noted
HEENT: NC/AT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No thrush or 
oral sores.
NECK: Supple, no lymphadenopathy noted
CARDIAC: RRR, S1/S2 appreciated, no murmurs/rubs/gallops. No S3 
or S4.
LUNGS: No chest wall deformities, scoliosis, but mild kyphosis. 
Respirations were unlabored, no accessory muscle use. Decreased 
lung sounds at bases bilaterally with poor aeration but no 
prominent crackles or wheezes noted. Anterior/upper rhonchi 
noted with +cough.
ABDOMEN: Soft, NTND. No HSM. Normoactive BS. Mild tenderness 
over lower epigastric region with palpation but no 
rebound/guarding.
EXTREMITIES: No edema, 2+ pedal pulses bilaterally
SKIN: No rashes, stasis dermatitis, ulcers or lesions
NEURO: CNs ___ grossly intact, no focal sensory or motor 
deficits, gait assessment deferred.

 
Pertinent Results:
ADMISSION LABS:
___ 01:25PM   UREA N-17 CREAT-0.7
___ 01:25PM   ALT-19, AST-27, LDH-257* ALP-91 TOT BILI-0.5
___ 01:25PM   WBC-35.5*# RBC-4.56 HGB-13.3 HCT-37.8 MCV-83 
MCH-29.1 MCHC-35.1* RDW-13.7, PLTS 361
___ 01:25PM   NEUTS-53.8 ___ MONOS-3.8 EOS-0.6 
BASOS-0.4
___ 01:25PM   ___ ___
SPEP - WNL, IgA/IgG/IgM levels all WNL 
.
ADDITIONAL MICROBIOLOGY STUDIES:
.
___: Blood Culture, Routine (Final ___ GROWTH. 
.
___: URINE CULTURE (Final ___:  NO GROWTH. 
.
___ 5:00 pm STOOL     
**FINAL REPORT ___
CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
CLOSTRIDIUM DIFFICILE. FECES POSITIVE FOR C. DIFFICILE TOXIN BY 
EIA. 
.
___ 6:40 am Rapid Respiratory Viral Screen & Culture
Site: NASOPHARYNX // Nasopharyngeal aspirate. 
**FINAL REPORT ___
Respiratory Viral Culture (Final ___: 
No respiratory viruses isolated. Culture screened for 
Adenovirus, Influenza A & B, Parainfluenza type 1,2 & 3, and 
Respiratory Syncytial Virus.. Detection of viruses other than 
those listed above will only be
performed on specific request. Please ___ Virology at 
___
within 1 week if additional testing is needed. 

Rapid Respiratory Viral Antigen Test (Final ___: 
Respiratory viral antigens not detected. SPECIMEN SCREENED FOR: 
ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B AND RSV. 
.

.
URINE STUDIES:
___ 05:10AM URINE Color-Yellow Appear-Clear Sp ___
___ 05:10AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 05:10AM URINE RBC-3* WBC-2 Bacteri-NONE Yeast-NONE 
Epi-1
.
.
DISCHARGE LABS:
___ 06:20AM BLOOD WBC-33.5* RBC-3.96* Hgb-11.4* Hct-33.1* 
MCV-84 MCH-28.8 MCHC-34.4 RDW-14.0 Plt ___
___ 06:20AM BLOOD Neuts-48.8* Lymphs-46.1* Monos-3.3 
Eos-1.3 Baso-0.5
___ 06:20AM BLOOD Plt ___
___ 06:20AM BLOOD Glucose-102 UreaN-12 Creat-0.6 Na-140 
K-3.4 Cl-111* HCO3-21*, Calcium-8.1* Phos-2.7 Mg-1.9 
___ 06:20AM BLOOD ALT-10 AST-16 LD(LDH)-243 AlkPhos-84 
TotBili-0.6

.
 
Brief Hospital Course:
In summary, Mrs. ___ is a ___ female with recent 
diagnosis of CLL (___), brief hospitalization last week for 
community acquired pneumonia, and past medical history 
significant for hypertension, coronary artery disease, 
hyperlipidemia, prior MI/CABG ___, who presented on this 
hospitalization with diarrhea, abdominal cramps, chills and 
marked leukocytosis despite dual antibiotic therapy for recent 
pneumonia. 
.
# Leukocytosis: Mrs. ___ reported recurrent chills, diarrhea, 
and gastric pain at time of admission. She had a WBC count of 
15.6 on ___ when she was discharged from hospital for recent 
pneumonia. On this admission (___) she had initial 
leukocytosis to 35 despite being on antibiotics for over a week. 
Given her GI complaints, immunocompromised baseline,and recent 
hospitalization, Clostridium difficile colitis was very high on 
the differential diagnosis list. Blood and urine cultures were 
negative, and rapid respiratory viral screen was unremarkable. 
C.difficile toxin was sent and returned positive. Therefore she 
was placed on P.O. Flagyl with liquid Vancomycin added. 
Frequency of diarrhea seemed to decrease throughout her hospital 
course and her abdominal pain tapered as well. She was 
tolerating a regular PO diet by hospital day two. Lung exam 
continued to improve and she had a very mild, non-productive 
cough that was "much better" than it had been a week earlier 
according to the patient. Last CXR done on ___ prior to 
discharge from the hospital a week ago showed interval 
resolution of previously described opacity at the left lung base 
and no new infiltrates were noticed. Given that she had been on 
fairly broad coverage for pneumonia, team felt that a worsening 
respiratory infection was unlikely the etiology of her 
leukocytosis. Moreover, her clinical PNA symptoms were 
improving. She completed her Azithromycin and she was continued 
on the last 2 remaining days of her Cefpodoxime to complete her 
PNA treatment. Overlapping Flagyl and oral Vancomycin were also 
continued while she completed her Cefpodoxime. She was 
discharged with instructions to finish another 10-days of her 
Flagyl and Vancomycin and she will follow-up as an outpatient 
with Dr. ___ in 2 weeks. 
.
# Diarrhea : As above, her diarrhea was eventually attributed to 
her C.difficile. She was placed on Flagyl and PO Vancomycin. 
Recent CT abdomen showed prominence of the biliary duct at its 
origin at the ampulla. This prompted concern over a possible  
choledochocele vs. small ampullary mass. Therefore, she was set 
up for outpatient follow-up abdominal ultrasound and endoscopy 
on ___ with ___. 
.
#Chronic Lymphocytic Leukemia: Currently Stage 0 disease. She 
reports constitutional night sweats, chills, and a 55 lb weight 
loss over ___ year. No hepatosplenomegaly or overt lymphadenopathy 
noted on exam or on her recent CT scans of pelvis/abdomen. 
Oncology team continued to trend her CBC/differential daily. WBC 
count decreased slightly from 35-> 32 by time of discharge, 
which will hopefully continue to improve as she has another 10 
days of her Flagyl/Vancomycin therapy to complete. SPEP with 
quantitative immunoglobulins were ordered and were all within 
normal limits. She will plan to follow up with her primary 
oncologist as an outpatient at the end of ___. No 
additional medications required for her CLL at this juncture. 
.
#Para-ovarian Cyst: Recent CT picked up a cyst adjacent to her 
right ovary that could either be paraovarian or ovarian in 
nature. She also has some lower quadrant pains on exam, although 
likely due to C.difficile infection. PCP was emailed and office 
was called and notified of this finding and Dr. ___ 
___ that he would plan to follow-up on this issue with 
a repeat pelvic ultrasound. 
.
#Hypertension: Blood pressures were well-controlled and she 
remained predominantly  normotensive. She was continued on her 
usual home amlodipine and atenolol regimen.
.
#Coronary Artery Disease: Patient has notable cardiac history 
for MI with CABG back in ___. LFTs do not appear to be elevated 
on statin medication. No complaints of  chest pains, angina or 
dyspnea during her stay. She was continued on usual aspirin and 
simvastatin.
.
#Anxiety : Per last admission notes the patient has had some 
increased anxiety over the past few months since her diagnosis 
with CLL. Social work had counseled patient for coping advice 
and therapy. She was continued on her daily Celexa therapy. Mood 
appeared stable, appropriate affect. 
.
#Fluids, Electrolytes and Nutrition: Repleted electrolytes as 
needed. NPO for brief period after admission and then she was 
placed on a cardiac healthy diet. 
.
#Prophylaxis : Continued usual omeprazole for mild GERD history 
and GI protection. Continued secondary prevention with daily 
ASA.  Daily ambulation was encouraged for her DVT prophylaxis. 
.
#Code Status: Mrs. ___ was maintained as a full code for the 
entirety of her hospital course.  
.
 
Medications on Admission:
--Cefpodoxime 100 mg tablets Tablet PO Q12H (every
12 hours) for 5 days (started ___, day ___ now).
--Azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H (every
24 hours) for 3 days: Please complete the antibiotics you
already have.
--Proventil HFA 90 mcg/Actuation HFA Aerosol Inhaler Sig: One
Puff q4-6 hours PRN
--Amlodipine 5 mg PO Daily
--Atenolol 50 mg PO Daily
--Simvastatin 40 mg Daily
--Aspirin 325 mg Daily
--NitroQuick 0.4 mg Tablet, SL PRN for chest pain.
--Calcium Citrate + D 315-200 mg-unit Tablet Sig: Two (2)
Tablet PO twice a day.
--Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1)
Capsule, Delayed Release(E.C.) PO BID (2 times a day).
--Citalopram 20 mg Tablet Sig: 0.5 tablet daily 
 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
3. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation every four (4) hours as needed for wheeze, SOB .  
7. Nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain : 
please take for chest pain as needed. Repeat q5mins up to 3 
times. ___ M.D. if pain not relieved.  
8. Citalopram 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
9. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) for 10 days.
Disp:*30 Tablet(s)* Refills:*0*
10. Vancomycin 250 mg Capsule Sig: One (1) LIQUID  PO Q6H (every 
6 hours) for 10 days: IF AVAILABLE PLEASE DISPENSE ORAL 
FORMULATION.
Disp:*40 LIQUID * Refills:*0*
11. Calcium Citrate + D 315-200 mg-unit Tablet Sig: Two (2) 
Tablet PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
-Clistridium difficile 
-Chronic Lyphocytic Leukemia 
-Pneumonia
.
Secondary:
-Hypertension
-Coronary Artery Disease
-Hyperlipidemia  
-prior Cataract surgery  
-prior Sciatica s/p L4-L5 laminectomy  
-prior cholecystitis s/p gallbladder removal (___)  
-prior appendicitis s/p appendectomy (___)  
-prior gynecologic mass, s/p gynecologic surgery (___)  
-Osteoarthritis 
-prior bilateral total knee replacement  
.  

 

 
Discharge Condition:
Good. At time of discharge the patient had stable vital signs 
and appeared to be in no apparent distress.  

 
Discharge Instructions:
It was a pleasure taking care of you here at ___ 
___. 
.
You were admitted after experiencing chills, diarrhea, and 
abdominal pain. Additional lab testing revealed that you had an 
infection in your abdomen called Clostridium difficile which 
commonly causes diarrhea. You were given IV and oral medications 
to help effectively treat this infection. You were also given IV 
fluids and some low potassium levels were corrected. You 
completed your antibiotic course that was given for your recent 
pneumonia infection and a chest x-ray showed that the pneumonia 
was resolved. 
.
Please return to the emergency room or ___ your primary 
oncologist if you have any persistent fevers, chills, worsening 
diarrhea, worse abdominal pain, bloody stools, burning with 
urination, or any other concerning symptoms.
.
MEDICATION INSTRUCTIONS:
.
-Please continue to take an additional 10 days of your 
prescribed Vancomycin and Flagyl medications for your 
Clostridium difficile infection. 
. 
-Otherwise, please continue to take your other medications as 
previously prescribed. 
.  
 
Followup Instructions:
___